US04141899
3,4-Diethyl-5-(N-isopropyl-thiocarbamoyl)-4,5,6,7-tetrahydroimidazo-[4,5-c]-pyridine (386/1399)
A solution of 9.3 g of 3,4-diethyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine and 7.59 g of isopropyl isothiocyanate in 75 ml of anhydrous CH3CN is refluxed for 7.5 hours. The solution is allowed to stand overnight at -15° C., then is filtered. 5.59 g of the crude title compound are collected; m.p. 195° C. (recrystallized from CH3CN).

reactant | 3,4-diethyl-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine | 9.3 g | C(C)N1C=NC2=C1C(NCC2)CC | C10H17N3
reactant | isopropyl isothiocyanate | 7.59 g | C(C)(C)N=C=S | C4H7NS
solvent | CH3CN | 75 ml | CC#N | C2H3N
product | 3,4-Diethyl-5-(N-isopropyl-thiocarbamoyl)-4,5,6,7-tetrahydroimidazo-[4,5-c]-pyridine | C(C)N1C=NC2=C1C(N(CC2)C(NC(C)C)=S)CC | C14H24N4S
